US07074799B2
Reflux 7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-ol (0.38 mmol) for 18 hours in POCl3 (5 mL). Evaporate the solvent in vacuo, then carefully neutralize with saturated NaHCO3, and extract with EtOAc. Dry over Na2SO4, concentrate under vacuum to obtain 4-chloro-7-(3-trifluoromethyl-pyridin-2-yl)-quinazoline.

reactant | 7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-ol | 0.38 mmol | FC(C=1C(=NC=CC1)C1=CC=C2C(=NC=NC2=C1)O)(F)F | C14H8F3N3O
reactant | POCl3 | 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-7-(3-trifluoromethyl-pyridin-2-yl)-quinazoline | ClC1=NC=NC2=CC(=CC=C12)C1=NC=CC=C1C(F)(F)F | C14H7ClF3N3
